US06849622B2
A mixture comprising 500 mg of trans-4-(tert-butoxycarbonylamino)cyclohexanecarboxylic acid, 250 mg of N-methyl-benzylamine, 434 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 306 mg of 1-hydroxybenzotriazol and 5 ml of N,N-dimethylformamide was stirred at room temperature for 15 hours. The reaction mixture was made basic by adding an aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The extract was washed with water and brine, dried over anhydrous sodium sulfate, and then, the solvent was removed under reduced pressure to obtain 691 mg of N-benzyl-trans-4-tert-butoxycarbonylamino-N-methylcyclohexanecarboxamide. A mixture comprising 670 mg of this compound, 5 mL of 4N-hydrochloric acid-dioxane and 5 ml of dioxane was stirred at room temperature for 12 hours. The reaction mixture was concentrated to obtain 585 mg of trans-4-amino-N-benzyl-N-methylcyclohexanecarboxamide hydrochloride (Reference Example 11-1 in Table 7).

reactant | trans-4-(tert-butoxycarbonylamino)cyclohexanecarboxylic acid | 500 mg | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)C(=O)O | C12H21NO4
reactant | N-methyl-benzylamine | 250 mg | CNCC1=CC=CC=C1 | C8H11N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 434 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazol | 306 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-benzyl-trans-4-tert-butoxycarbonylamino-N-methylcyclohexanecarboxamide | 691 mg | C(C1=CC=CC=C1)N(C(=O)[C@@H]1CC[C@H](CC1)NC(=O)OC(C)(C)C)C | C20H30N2O3
